US07253196B2
2-(bicyclo[2.2.1]hept-2-ylamino)-5-isopropyl-1,3-thiazol-4(5H)-one
Synthesis was performed from N-bicyclo[2.2.1]hept-2-ylthiourea and ethyl 2-bromoisovalerate according to Method C.

reactant | N-bicyclo[2.2.1]hept-2-ylthiourea | C12C(CC(CC1)C2)NC(=S)N | C8H14N2S
reactant | ethyl 2-bromoisovalerate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 2-(bicyclo[2.2.1]hept-2-ylamino)-5-isopropyl-1,3-thiazol-4(5H)-one | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)C(C)C | C13H20N2OS
